US06423699B1
A mixture of 4-bromo-2-fluoro-1-nitro-benzene (22 g, 100 mmol), L-alanine (8.9 g, 100 mmol), and potassium carbonate (17.5 g, 125 mmol) in ethanol (250 ml), and water (200 ml) was heated to reflux for 5 hours. After cooling to room temperature, the mixture was diluted with water, and acidified with 1N hydrochloric acid. The precipitate was collected on a funnel and dried to afford N-(5-bromo-2-nitrophenyl)-alanine (28.9 g, 100%). A sample was recrystallized from ethanol: m.p. 183-187° C.; 1H-NMR (DMSO-d6) δ 1.44 (d, J=6.9 Hz, 3H), 4.56 (m, 1H), 6.87 (d, J=6 Hz, 1H), 7.21 (d, J=1.7 Hz, 1H), 7.99 (d, J=7 Hz, 1H), 8.36 (d, J=7 Hz, 1H), 13.27 (s, 1H).

reactant | 4-bromo-2-fluoro-1-nitro-benzene | 100 mmol, 22 g | BrC1=CC(=C(C=C1)[N+](=O)[O-])F | C6H3BrFNO2
reactant | L-alanine | 100 mmol, 8.9 g | N[C@@H](C)C(=O)O | C3H7NO2
reactant | potassium carbonate | 125 mmol, 17.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 250 ml | C(C)O | C2H6O
solvent | water | O | H2O
solvent | water | 200 ml | O | H2O
product | N-(5-bromo-2-nitrophenyl)-alanine | 28.9 g, 100% | BrC=1C=CC(=C(C1)N[C@@H](C)C(=O)O)[N+](=O)[O-] | C9H9BrN2O4
